US08193178B2
Step A: 3-Amino-4,5,6,7-tetrahydro-benzofuran-2-carboxylic acid ethyl ester
A solution of resin bound PPh3 (Polymer Laboratories, 1.48 mmol/g, 150-300 μM; 3.8 g, 5.7 mmol) in THF (35 mL) at 0° C. was treated with diethyl azodicarboxylate (40% wt. in hexane; 2.60 mL, 5.7 mmol), ethyl glycolate (0.54 mL, 5.7 mmol) and a solution of 2-oxo-cyclohexanecarbonitrile (0.5 g, 4.1 mmol) in THF (10 mL). The reaction mixture warmed to rt over 12 h. Filtration and concentration afforded the uncyclized intermediate, which was dissolved in THF (25 mL) and added drop-wise to a slurry of sodium hydride (95%; 0.29 g, 11.4 mmol) in THF (10 mL) at 0° C. The reaction mixture was heated to 40° C. for 12 h. The reaction was quenched with satd. aq. NH4Cl (5 mL) and the mixture was extracted with EtOAc (3×50 mL). The combined organic layers were dried (by using, for example, Na2SO4) and concentrated. Purification by FCC (50% EtOAc/hexanes) afforded the desired product as a pale yellow solid (0.36 g). MS: 210.2. 1H NMR (400 MHz, CD3OD) δ ppm 4.26 (q, J=7.1, Hz, 2H), 2.55-2.47 (m, 2H), 2.35-2.28 (m, 2H), 1.90-1.79 (m, 2H), 1.79-1.71 (m, 2H), 1.33 (t, J=7.1, Hz, 3H).

reactant | PPh3 | 5.7 mmol, 150-300 μM, 3.8 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | diethyl azodicarboxylate | 5.7 mmol, 2.60 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | ethyl glycolate | 5.7 mmol, 0.54 mL | C(CO)(=O)OCC | C4H8O3
reactant | 2-oxo-cyclohexanecarbonitrile | 4.1 mmol, 0.5 g | O=C1C(CCCC1)C#N | C7H9NO
reactant | sodium hydride | 11.4 mmol, 0.29 g | [H-].[Na+]
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-Amino-4,5,6,7-tetrahydro-benzofuran-2-carboxylic acid ethyl ester | 0.36 g | C(C)OC(=O)C=1OC2=C(C1N)CCCC2 | C11H15NO3
